US05366957
A solution of n-butyllithium in hexane (4.4 ml) was added to a stirred solution of [2-chloro-4-(methylsulphenyl)phenyl]acetylene (2.0 g) in THF while maintaining the temperature below -70° C. The mixture was stirred for 5 minutes and cyclopropanecarbonyl chloride (2.4 g) was added. The mixture was warmed to room temperature and poured onto aqueous sodium chloride solution. The aqueous layer was extracted with ether and combined organic layers dried (MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was dissolved in methanol and heated at reflux for 5 minutes. Toluene was added and the mixture was evaporated to dryness. The residue was purified by chromatography eluted with a mixture of hexane and ether to give 1-[2-chloro4(methylsulphenyl)phenyl]-3-cyclopropylprop-1-yn-3-one as yellow oil which crystallized on standing, m.p. 46°-50° C. [2-Chloro-4-(methylsulphenyl)phenyl]acetylene was prepared by the reaction of 1-bromo-2-[2-chloro-4-(methylsulphenyl)phenyl]acetylene with n-butyllithium and wet zinc chloride in THF at -70° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | [2-chloro-4-(methylsulphenyl)phenyl]acetylene | 2.0 g | ClC1=C(C=CC(=C1)SC)C#C | C9H7ClS
reactant | cyclopropanecarbonyl chloride | 2.4 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sodium chloride | [Cl-].[Na+]
solvent | hexane | 4.4 ml | CCCCCC | C6H14
solvent | THF | C1CCOC1 | C4H8O
product | 1-[2-chloro4(methylsulphenyl)phenyl]-3-cyclopropylprop-1-yn-3-one | ClC1=C(C=CC(=C1)SC)C#CC(=O)C1CC1 | C13H11ClOS
